US06528525B1
(a) N-[2-(methanesulfonyloxy)ethyl]phthalimide
After methanesulfonyl chloride (12.7 g) was added to a solution of N-(2-hydroxyethyl)phthalimide (19.1 g) in anhydrous dichloromethane (200 ml), triethylamine (20 ml) was added dropwise to the mixture in an ice bath. The mixture was stirred at ambient temperature for 4 hours. At the end of this time the reaction mixture was concentrated under reduced pressure. The residual solid was washed with ethyl acetate and water and then recrystallized from ethyl acetate to afford the desired compound (18.2 g).

reactant | methanesulfonyl chloride | 12.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(2-hydroxyethyl)phthalimide | 19.1 g | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(methanesulfonyloxy)ethyl]phthalimide | 18.2 g | CS(=O)(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H11NO5S
